US05246942
A mixture of 18.6 g of methyl 5-chlorosalicylate, 28 g of K2CO3 and 20 g of 3-bromocyclohexene in 200 ml of DMF is stirred at 90° C. overnight. The mixture is then Poured into water, extracted with ethyl acetate, washed with water, dried over magnesium sulfate and evaporated to dryness to obtain crude product. This is purified by flash chromatography using hexane as the eluent to give pure methyl 2-(cyclohexen-3-yloxy)-5-chlorobenzoate as the first fraction which is used directly in the next step.

reactant | methyl 5-chlorosalicylate | 18.6 g | ClC1=CC=C(C(C(=O)OC)=C1)O | C8H7ClO3
reactant | K2CO3 | 28 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromocyclohexene | 20 g | BrC1C=CCCC1 | C6H9Br
reactant | water | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | methyl 2-(cyclohexen-3-yloxy)-5-chlorobenzoate | C1=CC(CCC1)OC1=C(C(=O)OC)C=C(C=C1)Cl | C14H15ClO3
